US05700836
193 mg of NaH (55% in mineral oil) were placed in 10 ml of abs. DMF under argon and 1.66 g of diethyl (4-carbethoxybenzyl)-phosphonate were added thereto at 0° and the mixture was subsequently stirred at room temperature until the H2 evolution had finished. Then, 1.08 g of 2-formyl-3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene without addition solvent were added at 0°. After 30 min. at room temperature the mixture was extracted with hexane and washed twice with ethanol/H2O=8/2. Drying, evaporation and direct crystallization from hexane yielded 1.45 g of ethyl (E)-4-[2-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-benzoate as yellowish crystals of m.p. 80°-82°.

reactant | NaH | 193 mg | [H-].[Na+]
reactant | diethyl (4-carbethoxybenzyl)-phosphonate | 1.66 g | C(=O)(OCC)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C14H21O5P
reactant | 2-formyl-3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene | 1.08 g | C(=O)C1=CC=2C(CCC(C2C=C1OCC#CCC)(C)C)(C)C | C20H26O2
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl (E)-4-[2-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-benzoate | 1.45 g | C(C#CCC)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C=C/C1=CC=C(C(=O)OCC)C=C1 | C30H36O3
